.title kicad schematic

* u1 b net-_u1-pad2_ adc_bridge_1
* u3 a net-_u3-pad2_ adc_bridge_1
* u5 bin net-_u11-pad1_ adc_bridge_1
v2 a gnd pulse(0 5 0 0.01m 0.01m 2m 4m)
* u4 a plot_v1
v1 b gnd pulse(0 5 0 0.01m 0.01m 1m 2m)
* u2 b plot_v1
v3 bin gnd pulse(0 5 0 0.01m 0.01m 0.5m 1m)
* u6 bin plot_v1
* u17 net-_u14-pad3_ bout dac_bridge_1
* u12 d plot_v1
* u15 bout plot_v1
* u10 net-_u10-pad1_ net-_u1-pad2_ net-_u10-pad3_ d_and
* u9 net-_u11-pad2_ net-_u13-pad1_ d_inverter
* u11 net-_u11-pad1_ net-_u11-pad2_ net-_u11-pad3_ d_xor
* u13 net-_u13-pad1_ net-_u11-pad1_ net-_u13-pad3_ d_and
* u16 net-_u11-pad3_ d dac_bridge_1
* u14 net-_u13-pad3_ net-_u10-pad3_ net-_u14-pad3_ d_or
* u8 net-_u3-pad2_ net-_u10-pad1_ d_inverter
* u7 net-_u3-pad2_ net-_u1-pad2_ net-_u11-pad2_ d_xor
a1 [b ] [net-_u1-pad2_ ] u1
a2 [a ] [net-_u3-pad2_ ] u3
a3 [bin ] [net-_u11-pad1_ ] u5
a4 [net-_u14-pad3_ ] [bout ] u17
a5 [net-_u10-pad1_ net-_u1-pad2_ ] net-_u10-pad3_ u10
a6 net-_u11-pad2_ net-_u13-pad1_ u9
a7 [net-_u11-pad1_ net-_u11-pad2_ ] net-_u11-pad3_ u11
a8 [net-_u13-pad1_ net-_u11-pad1_ ] net-_u13-pad3_ u13
a9 [net-_u11-pad3_ ] [d ] u16
a10 [net-_u13-pad3_ net-_u10-pad3_ ] net-_u14-pad3_ u14
a11 net-_u3-pad2_ net-_u10-pad1_ u8
a12 [net-_u3-pad2_ net-_u1-pad2_ ] net-_u11-pad2_ u7
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u17 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u10 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u11 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u13 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u16 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u14 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, Ngspice Name: d_xor
.model u7 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 100e-09 4e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a)
plot v(b)
plot v(bin)
plot v(d)
plot v(bout)
.endc
.end
