.title kicad schematic

.include lm_741.sub
x1 unconnected-_x1-pad1_ net-_r1-pad2_ in net-_v3-pad2_ unconnected-_x1-pad5_ out net-_v2-pad1_ unconnected-_x1-pad8_ lm_741
v2 net-_v2-pad1_ gnd 15
* u2 out plot_v1
r1 gnd net-_r1-pad2_ 10k
r2 net-_r1-pad2_ out 90k
* u1 in plot_v1
v3 gnd net-_v3-pad2_ 15
v1 in gnd sine(0 0.1 1000 0 0)
.tran 0.01e-03 5e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in)
.endc
.end
